US05968985
To a mixture of methyl 3-[(2-dimethylaminoethyl)carbamoylmethoxy]-5-hydroxybenzoate (1.30 g), 2,6-lutidine (0.613 ml) and 4-(dimethylamino)pyridine (0.083 g) in dichloromethane (26 ml) was added dropwise trifluoromethanesulfonic anhydride (0.886 ml) at -30° C. After stirring at room temperature for 4 hours, water was added to the reaction mixture and the mixture was adjusted to pH 8. Two layers were separated and the aqueous layer was extracted with dichloromethane. The organic layers were combined, washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (20:1). The fractions containing the desired product were collected and evaporated in vacuo. The residue was triturated with n-hexane, collected by filtration and washed with n-hexane to give methyl 3-[(2-dimethylaminoethyl)carbamoylmethoxy]-5-trifluoromethylsulfonyloxybenzoate (1.47 g).

reactant | methyl 3-[(2-dimethylaminoethyl)carbamoylmethoxy]-5-hydroxybenzoate | 1.30 g | CN(CCNC(=O)COC=1C=C(C(=O)OC)C=C(C1)O)C | C14H20N2O5
reactant | 2,6-lutidine | 0.613 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 0.886 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
catalyst | 4-(dimethylamino)pyridine | 0.083 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 26 ml | ClCCl | CH2Cl2
product | methyl 3-[(2-dimethylaminoethyl)carbamoylmethoxy]-5-trifluoromethylsulfonyloxybenzoate | 1.47 g | CN(CCNC(=O)COC=1C=C(C(=O)OC)C=C(C1)OS(=O)(=O)C(F)(F)F)C | C15H19F3N2O7S
